US05110966
Step a: 1-Trimethylsilyl-3-methyl-l-nonyn-3-ol
Dissolve B-(2-(trimethylsilyl)ethynyl)-9-borabicyclo[3.3.1]nonane° tetrahydrofuran complex (2.63 g, 9 mmol) in tetrahydrofuran (30 mL) and add 2-octanone (1.41 mL, 9 mmol). Stir at 65° C. for 48 hours. Cool to room temperature and remove the solvent under a positive nitrogen pressure to give a yellow solid. Add ethyl ether (30 mL) and methanol (365 μL, 9 mmol). Cool to 0° C. and add, by dropwise addition, ethanolamine (543 μL, 9 mmol). Stir overnight, centrifuge the reaction mixture and separate the clear supernatant liquid. Wash the precipitate with pentane (2×10 mL) and combine the organic phases. Wash with water (2×25 mL) and dry (MgSO4). Evaporate the solvent in vacuo and purify by silica gel chromatography (20:5:1/ hexane, chloroform, methanol) to give the title compound as a pale yellow liquid (1,45 g, 71%).

reactant | B-(2-(trimethylsilyl)ethynyl)-9-borabicyclo[3.3.1]nonane | C[Si](C#CB1C2CCCC1CCC2)(C)C | C13H23BSi
reactant | 2-octanone | 9 mmol, 1.41 mL | CC(CCCCCC)=O | C8H16O
reactant | methanol | 9 mmol, 365 μL | CO | CH4O
reactant | ethanolamine | 9 mmol, 543 μL | C(O)CN | C2H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
product | 1-Trimethylsilyl-3-methyl-l-nonyn-3-ol | 1,45 g, 71% | C[Si](C#CC(CCCCCC)(O)C)(C)C | C13H26OSi
